US04100280
About 0.04 moles of propionyl chloride were added in dropwise fashion to a solution of 0.03 moles of 2-isopropylthio-4,5-dimethoxyaniline and 0.04 moles of triethylamine cooled to about 0° C. The reaction mixture was stirred for 2 hours with cooling and was then washed with water and dried. The volatile constituents were removed under reduced pressure leaving a residual oil comprising 2-isopropylthio-4,5-dimethoxypropionanilide. This residual oil was dissolved in 250 ml. of acetic acid and 3.5 ml. of 31 percent hydrogen peroxide added thereto. The reaction mixture was stirred for 6 hours and then concentrated in vacuo to an oil. The oil was dissolved in methylene dichloride, and the methylene dichloride solution washed with water and dried. Removal of the methylene dichloride in vacuo yielded 7 g. of a hard wax comprising 2-isopropylsulfinyl-4,5-dimethoxypropionanilide formed in the above reaction. The compound was not further purified but was mixed with 0.05 mole of o-mesitylenesulfonylhydroxylamine in 300 ml. of acetonitrile and the subsequent solution was stirred for 72 hours at room temperature. Removal of the volatile constituents in vacuo yielded a solid comprising 1-isopropyl-3-ethyl-6,7-dimethoxy-1H-1,2,4-benzothiadiazine-1-oxide formed in the above reaction. The solid residue was dissolved in one liter of methylene dichloride and the methylene dichloride solution washed with 400 ml. of water containing 40 ml. of 14N ammonium hydroxide and then with water. The methylene dichloride solution was dried, and the solvent removed therefrom in vacuo. The residue comprising 1-isopropyl-3-ethyl-6,7-dimethoxy-1-H-1,2,4-benzothiadiazine-1-oxide in purified form was dissolved in ethanol and the ethanol solution saturated with anhydrous hydrogen chloride. The solvent and excess hydrogen chloride were removed in vacuo yielding 1-isopropyl-3-ethyl-6,7-dimethoxy-1H-1,2,4-benzothiadiazine-1-oxide hydrochloride (4.8 g.) which melted at 199°-201° C. after recrystallization from an ethanol-isopropyl ether solvent mixture.

reactant | propionyl chloride | 0.04 moles | C(CC)(=O)Cl | C3H5ClO
reactant | 2-isopropylthio-4,5-dimethoxyaniline | 0.03 moles | C(C)(C)SC1=C(N)C=C(C(=C1)OC)OC | C11H17NO2S
reactant | triethylamine | 0.04 moles | C(C)N(CC)CC | C6H15N
reactant | hydrogen peroxide | OO | H2O2
reactant | o-mesitylenesulfonylhydroxylamine | 0.05 mole | C1(=C(C(=CC(=C1)C)C)S(=O)(=O)NO)C | C9H13NO3S
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | acetonitrile | C(C)#N | C2H3N
product | 1-isopropyl-3-ethyl-6,7-dimethoxy-1H-1,2,4-benzothiadiazine-1-oxide | C(C)(C)S1(NC(=NC2=C1C=C(C(=C2)OC)OC)CC)=O | C14H22N2O3S
